US04760064
To a mixture of 1-(4-nitrobenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (1.5 g) and ethanol (30 ml) were added DMF (5 ml) and 10% palladium on carbon (300 mg). The mixture was hydrogenated at 50° to 60° C. After competion of reaction, the catalyst was filtered off and the filtrate was evaporated under reduced pressure. The resultant residue was purified by silica-gel column chromatography (eluent:dichloromethane:methanol= 100:2) and recrystallized from ethanol to give 1-(4-aminobenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (0.45 g).

reactant | 1-(4-nitrobenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 1.5 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C(=O)CCC3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C29H28N4O7
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(4-aminobenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 0.45 g | NC1=CC=C(C(=O)N2C(=O)CCC3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C29H30N4O5
